US04051252
Analogously to Example 21, catalytic hydrogenation of 0.15 mol of 3-amino-5-nitroindazole with Raney nickel in tetrahydrofurane at 75° C, followed by reaction of the solution, which has been freed from the catalyst, with 0.6 mol of pyrocarbonic acid diethyl ester, in 2 hours at 50° C, gives 3-amino-5-ethoxycarbonylaminoindazole-1-carboxylic acid ethyl ester (melting point: 173°-174° C; 42% of theory).

reactant | 3-amino-5-nitroindazole | 0.15 mol | NC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H6N4O2
reactant | pyrocarbonic acid diethyl ester | 0.6 mol | C(C)OC(=O)OC(=O)OCC | C6H10O5
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 3-amino-5-ethoxycarbonylaminoindazole-1-carboxylic acid ethyl ester | 42% | C(C)OC(=O)N1N=C(C2=CC(=CC=C12)NC(=O)OCC)N | C13H16N4O4
